US04125606
1 -- Preparation of BOC-Asn-Ala-OBzl (I)
1.5 g (4.24 mmoles) of p-nitrophenyl ester of BOC-Asparagine are added to a solution cooled to 0° of 1.7 g (4.84 mmoles) of p-toluene sulfonate of the benzyl ester of alanine and of 0.53 ml (4.84 mmoles) of N-methylmorpholine, in 15 ml of dimethylformamide. After 24 hours at ambiant temperature, the product is purified as described above. In suspension in ether, 1.33 g (79%) of the product is obtained after filtration, having a melting point and a rotatory power (in dimethyl formamide) respectively of m.p. 138°-141°; αD25 = 17.5° (c = 1.02 DMF).

reactant | BOC-Asparagine | C(=O)(OC(C)(C)C)N[C@@H](CC(N)=O)C(=O)O | C9H16N2O5
reactant | p-toluene sulfonate | 4.84 mmoles, 1.7 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | N-methylmorpholine | 4.84 mmoles, 0.53 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | BOC-Asn-Ala-OBzl | 1.33 g, 79% | N([C@@H](CC(N)=O)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H27N3O6
